US07700628B2
A. 1-(tert-Butoxycarbonyl)-4-(2-nitrobenzoyl)piperazine
To a mixture of 1-(tert-butoxycarbonyl)piperazine (11.18 g, 60 mmol) in CH2Cl2 (120 mL) at 0° C. was added 2-nitrobenzoyl chloride (8.0 mL, 60.6 mmol). The reaction was warmed to room temperature and stirred for 2 hours. A solution of 50% satd Na2 CO3 was added and the mixture was extracted with CH2Cl2. The organic layer was washed with satd citric acid and water, dried over MgSO4, and concentrated to a slurry. Ether was added to the mixture and it was filtered to give the desired product as a white solid (16.0 g, 79%).

reactant | 1-(tert-butoxycarbonyl)piperazine | 60 mmol, 11.18 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-nitrobenzoyl chloride | 60.6 mmol, 8.0 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 1-(tert-Butoxycarbonyl)-4-(2-nitrobenzoyl)piperazine | 16.0 g, 79% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)[N+](=O)[O-])=O | C16H21N3O5
